US05175301
1,1-Dimethyl-2-(3-pyridylmethyl)hydrazine
In 100 ml of dry ethyl ether was suspended 4.6 g of lithium aluminum hydride and with stirring in a nitrogen gas stream, a solution of 12.0 g of 1,1-dimethyl-2-(3-pyridylmethylidene)hydrazine in 50 ml of dry ethyl ether was added dropwise. The mixture was refluxed for 5 hours and, then, cooled (5° C.) and with stirring, 5 ml of water, 5 ml of 20% aqueous sodium hydroxide and 15 ml of water were added dropwise in succession. The insoluble matter was filtered off, the filtrate was concentrated, and the residue was purified by silica gel column chromatography (eluent: chloroformethanol=10:1). The resulting oil was distilled under reduced pressure to give 2.5 g of the title compound as a yellow oil.

reactant | lithium aluminum hydride | 4.6 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1,1-dimethyl-2-(3-pyridylmethylidene)hydrazine | 12.0 g | CN(N=CC=1C=NC=CC1)C | C8H11N3
reactant | water | 5 ml | O | H2O
reactant | sodium hydroxide | 5 ml | [OH-].[Na+]
reactant | water | 15 ml | O | H2O
solvent | ethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | ethyl ether | 50 ml | C(C)OCC | C4H10O
product | 1,1-Dimethyl-2-(3-pyridylmethyl)hydrazine | 2.5 g | CN(NCC=1C=NC=CC1)C | C8H13N3
